US06936612B2
6-Bromomethyl-8-cyclopentyl-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one (1.33 g, 3.75 mmol), prepared as in Example 25, and silver acetate (1.03 g, 6.2 mmol) were added to glacial acetic acid (10 ml) and heated to 110° C. for 5 hours. The solvents then were evaporated at reduced pressure and the resulting residue was suspended in ethyl acetate and filtered. The solid obtained was recrystallized from ethyl acetate to provide acetic acid 8-cyclopentyl-2-methylsulfanyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-6-ylmethyl ester as a solid (0.89 g, 71%). MS (APCI) M++1; Calc'd 334.11. Found 334.2.

reactant | 6-Bromomethyl-8-cyclopentyl-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one | 3.75 mmol, 1.33 g | BrCC1=CC2=C(N=C(N=C2)SC)N(C1=O)C1CCCC1 | C14H16BrN3OS
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
catalyst | silver acetate | 6.2 mmol, 1.03 g | C(C)(=O)[O-].[Ag+]
product | acetic acid 8-cyclopentyl-2-methylsulfanyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-6-ylmethyl ester | 0.89 g, 71% | C1(CCCC1)N1C(C(=CC2=C1N=C(N=C2)SC)COC(C)=O)=O | C16H19N3O3S
